US20010021718A1
ethyl (4S)-2-[(1R)-1-(4,4-dimethyl-2-oxopentyl)-3-butenyl]4,5-dihydro-1,3-oxazole4-carboxylate
A solution of ethyl (2S)-2-{[(2R)-2-(4,4-dimethyl-2-oxopentyl)-4-pentenoyl]amino-3-hydroxypropanoate (Preparation 113) (23.8 g, 72.3 mmol) in anhydrous tetrahydrofuran (300 ml), under a nitrogen atmosphere, was treated with (methoxycarbonylsulfamoyl)triethylammonium hydroxide triethylamine hydrochloride salt (43.5 g, 79.4 mmol) and stirred at reflux for 1.5 hours. After allowing to cool to room temperature the mixture was filtered, washed with ethyl acetate and the filtrate was concentrated under reduced pressure. The oil was purified by column chromatography on silica gel eluting with a solvent gradient of 80:20 (hexane:diethylether) gradually changing to 50:50 (hexane:diethylether) to afford the title compound as a colourless oil (11.0 g).

reactant | [(2R)-2-(4,4-dimethyl-2-oxopentyl)-4-pentenoyl]amino-3-hydroxypropanoate | 72.3 mmol, 23.8 g | CC(CC(C[C@H](C(=O)NC(C(=O)[O-])CO)CC=C)=O)(C)C
reactant | (methoxycarbonylsulfamoyl)triethylammonium hydroxide triethylamine hydrochloride salt | 79.4 mmol, 43.5 g | Cl.C(C)N(CC)CC.[OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | ethyl (4S)-2-[(1R)-1-(4,4-dimethyl-2-oxopentyl)-3-butenyl]4,5-dihydro-1,3-oxazole4-carboxylate | 11.0 g | CC(CC(C[C@@H](CC=C)C=1OC[C@H](N1)C(=O)OCC)=O)(C)C | C17H27NO4
